US04029672
To a solution of 28.1 g of mercuric chloride and 10.3 g of calcium carbonate in 150 ml of aqueous 80% acetonitrile is added under nitrogen a solution of 17.0 g of 2-(2-dimethylaminoethyl)-2-[1-(o-fluorobenzyl)-2-pyrryl]-1,3-dithiane in 100 ml of aqueous 80% acetonitrile. The reaction mixture is stirred at reflux for 4 hours, the mixture is permitted to cool and filtered through celite. The filter cake is washed with a hexane-dichloromethane mixture and the was solution is washed successively with a 5M aqueous ammonium acetate solution and water, dried and filtered. The solvents are evaporated off leaving a dark oil which solidifies upon trituration with n-hexane to give the solid product of 2-(3-dimethylaminopropionyl)-1-(o-fluorobenzyl)pyrrole.

reactant | calcium carbonate | 10.3 g | C([O-])([O-])=O.[Ca+2]
reactant | acetonitrile | C(C)#N | C2H3N
reactant | 2-(2-dimethylaminoethyl)-2-[1-(o-fluorobenzyl)-2-pyrryl]-1,3-dithiane | 17.0 g | CN(CCC1(SCCCS1)C=1N(C=CC1)CC1=C(C=CC=C1)F)C | C19H25FN2S2
solvent | n-hexane | CCCCCC | C6H14
product | 2-(3-dimethylaminopropionyl)-1-(o-fluorobenzyl)pyrrole | CN(CCC(=O)C=1N(C=CC1)CC1=C(C=CC=C1)F)C | C16H19FN2O
